US07161022B2
Synthesis of ethyl (E)-4-(3,4-dimethoxyphenyl)-4-oxo-2-butenoate
Into a 500 ml four-neck flask were charged 66.9 g (0.682 mol) of maleic anhydride, 150 ml of chlorobenzene, 71.6 ml (0.546 mol) of diethyl sulfate under a nitrogen atmosphere. Then, the whole was cooled to 10° C. or lower and 67.6 g (0.507 mol) of aluminum chloride was added thereto. While temperature was maintained at 10 to 15° C., 25 ml (0.195 mol) of 1,2-dimethoxybenzene was added dropwise, followed by 4 hours of reaction. After termination of the reaction was confirmed by HPLC analysis, the reaction solution was added dropwise to 200 ml of a 1N hydrochloric acid aqueous solution cooled to 0° C. to decompose excess aluminum chloride. After liquid separation, the organic layer was washed with 200 ml of a 10% sodium bicarbonate aqueous solution to remove excess maleic anhydride. After the solvent was removed by evaporation under reduced pressure, the residue was crystallized from 5 ml of ethanol to obtain 36.2 g (yield 70.3%) of the aimed compound as light yellow crystals. As a result of HPLC analysis, the purity was found to be 99.8%.

reactant | maleic anhydride | 0.682 mol, 66.9 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | diethyl sulfate | 0.546 mol, 71.6 ml | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | aluminum chloride | 0.507 mol, 67.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,2-dimethoxybenzene | 0.195 mol, 25 ml | COC1=C(C=CC=C1)OC | C8H10O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | chlorobenzene | 150 ml | ClC1=CC=CC=C1 | C6H5Cl
product | ethyl (E)-4-(3,4-dimethoxyphenyl)-4-oxo-2-butenoate | 36.2 g, yield 70.3% | COC=1C=C(C=CC1OC)C(/C=C/C(=O)OCC)=O | C14H16O5
